US06258824B1
6-[(6-Chloro-pyridin-3-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1-cyclopropylmethyl-4-(3-ethoxy-phenyl)-1H-quinolin-2-one
The same procedure described in example 8, 6-[(6-chloro-pyridin-3-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-4-(3-ethoxy-phenyl)-1H-quinolin-2-one (50 mg, 0.103 mmol) and (bromomethyl)cyclopropane (0.020 ml, 0.206 mmol) generated the title compound as a white solid (4 mg, 7% yield).

reactant | 6-[(6-chloro-pyridin-3-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-4-(3-ethoxy-phenyl)-1H-quinolin-2-one | 0.103 mmol, 50 mg | ClC1=CC=C(C=N1)C(C=1C=C2C(=CC(NC2=CC1)=O)C1=CC(=CC=C1)OCC)(C=1N(C=NC1)C)O | C27H23ClN4O3
reactant | (bromomethyl)cyclopropane | 0.206 mmol, 0.020 ml | BrCC1CC1 | C4H7Br
product | 6-[(6-Chloro-pyridin-3-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1-cyclopropylmethyl-4-(3-ethoxy-phenyl)-1H-quinolin-2-one | 4 mg, 7% yield | ClC1=CC=C(C=N1)C(C=1C=C2C(=CC(N(C2=CC1)CC1CC1)=O)C1=CC(=CC=C1)OCC)(C=1N(C=NC1)C)O | C31H29ClN4O3
